US04231784
N-[(4-Dimethylamino-6-methoxy-1,3,5-triazin-2-yl)aminocarbonyl]-2-methylbenzenesulfonamide
To a stirred solution of 0.85 g of 2-amino-4-dimethylamino-6-methoxy-1,3,5-triazine in 40 ml of methylene chloride was added, dropwise, 1.0 g of 2-methylbenzenesulfonyl isocyanate in 10 ml of methylene chloride. After stirring 24 hours, the resulting solution was evaporated to yield a solid. Recrystallization from benzene/hexane yielded the product named above melting at 194°-198°.

reactant | 2-amino-4-dimethylamino-6-methoxy-1,3,5-triazine | 0.85 g | NC1=NC(=NC(=N1)N(C)C)OC | C6H11N5O
reactant | 2-methylbenzenesulfonyl isocyanate | 1.0 g | CC1=C(C=CC=C1)S(=O)(=O)N=C=O | C8H7NO3S
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[(4-Dimethylamino-6-methoxy-1,3,5-triazin-2-yl)aminocarbonyl]-2-methylbenzenesulfonamide | CN(C1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C)C | C14H18N6O4S
